US07713982B2
(3-butyl-8-chloro-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-1-yl)acetonitrile
To a mixture of 3-butyl-8-chloro-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione (200 mg, 0.707 mmol) and Cs2CO3 (254 mg, 0.778 mmol) in anhydrous DMF (5 ml) was added chloroacetonitrile (0.054 ml, 0.85 mmol). The mixture was heated at 50° C. for 18 hours then allowed to cool to rt and degassed under a gentle vacuum then nitrogen introduced. This was repeated twice. Pd(PPh3)4 (82 mg, 0.071 mmol) was added and the mixture degassed once more, before morpholine (0.617 ml, 7.07 mmol) was added and the mixture left to stir for 3 hours at rt. The mixture was partitioned between 2M HCl(aq) and EtOAc. The organic layer was separated, washed with brine, dried (MgSO4) and concentrated. The residue was taken up in MeOH and passed down an amino-propyl SPE (5 g), eluting with MeOH followed by 5-10% AcOH/MeOH. The product fraction was concentrated giving the title compound 52 mg (26%); NMR; δH (400 MHz, d6-DMSO) 0.90 (t, 3H, J=7.5 Hz), 1.26-1.37 (m, 2H), 1.60-1.69 (m, 2H), 3.94 (t, 2H, J=7.5 Hz), 4.87 (s, 2H), 14.72 (br s, 1H); m/z 299.2 [MNH4+].

reactant | 3-butyl-8-chloro-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione | 0.707 mmol, 200 mg | C(CCC)N1C(NC(C=2N(C(=NC12)Cl)CC=C)=O)=O | C12H15ClN4O2
reactant | Cs2CO3 | 0.778 mmol, 254 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | chloroacetonitrile | 0.85 mmol, 0.054 ml | ClCC#N | C2H2ClN
reactant | morpholine | 7.07 mmol, 0.617 ml | N1CCOCC1 | C4H9NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.071 mmol, 82 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (3-butyl-8-chloro-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-1-yl)acetonitrile | 52 mg, 26% | C(CCC)N1C(N(C(C=2NC(=NC12)Cl)=O)CC#N)=O | C11H12ClN5O2
